US08487108B2
tert-butyl (2S,4R)-1-hydroxy-4-(hydroxymethyl)hept-6-en-2-ylcarbamate (6.8 g, 26.2 mmol) was dissolved in acetone (150 mL) followed by the addition of BF3.Et2O (2.62 mmol). The reaction mixture was cooled to 0° C. and 2,2-dimethoxypropane (4.1 g, 39.4 mmol) was added. The resulting mixture was stirred at rt for 1 h, TEA (0.5 mL) was added and stirred for another 5 min before evaporating under reduced pressure. The residue was dissolved in Et2O (300 mL), washed with 1 N HCl (80 mL), sat. aq. NaHCO3 (80 mL), brine (80 mL) successively, and dried, filtered, and concentrated under vacuum to give crude (S)-tert-butyl 4-((R)-2-(hydroxymethyl)pent-4-enyl)-2,2-dimethyloxazolidine-3-carboxylate (7.5 g, 96%). It was used for the next step without further purification. 1H NMR (CD3OD) δ 1.4-1.5 (m, 13H), 1.5-1.6 (d, 6H), 1.6-1.9 (m, 2H), 2.0-2.1 (m, 1H), 3.3-3.5 (m, 2H), 3.6-3.8 (m, 2H), 3.8-3.9 (m, 2H), 4.1-4.2 (m, 1H), 5.0-5.1 (m, 2H), 5.7-5.8 (m, 1H).

reactant | tert-butyl (2S,4R)-1-hydroxy-4-(hydroxymethyl)hept-6-en-2-ylcarbamate | 26.2 mmol, 6.8 g | OC[C@H](C[C@@H](CC=C)CO)NC(OC(C)(C)C)=O | C13H25NO4
reactant | BF3.Et2O | 2.62 mmol | B(F)(F)F.CCOCC
reactant | 2,2-dimethoxypropane | 39.4 mmol, 4.1 g | COC(C)(C)OC | C5H12O2
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | (S)-tert-butyl 4-((R)-2-(hydroxymethyl)pent-4-enyl)-2,2-dimethyloxazolidine-3-carboxylate | 7.5 g, 96% | OC[C@@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)CC=C | C16H29NO4
